US05605914
To a stirred solution of 3-amino-3-phenylpropionic acid methyl ester hydrochloride (0.50 g, 2.3 mmol) and sodium carbonate (0.25 g, 2.3 mmol) in 10 mL of water was added N-carboethoxyphthalimide (0.51 g, 2.3 mmol) in 7 mL of acetonitrile. The reaction progress was monitored by TLC (ethyl acetate/hexane; 1:2) which showed that the reaction was complete in one hour. The reaction mixture was partially concentrated to remove the acetonitrile. The resulting slurry was filtered and the solid was washed with 20 mL of water. The solid was dried in vacuo (60° C., <1 mm) to afford 280 mg (39.4% ) of methyl 3-phthalimido-3-phenylpropionate as a white powder: mp 75°-76° C.; 1H NMR (DMSO-d6, 250 MHz) δ 7.26-7.83 (m, 9H), 5.68-5.75 (m, 1H), 3.55 (S, 3H), 3.37-3.66 (m, 2H); 13C NMR (DMSO-d6) δ 170.7, 167.6, 138.6, 134.7, 131.0, 128.6, 127.8, 126.9, 123.3, 51.6, 49.9, 35.3. Anal. Calcd for C18H15NO4 : C, 69.89; H, 4.89; N, 4.53; Found: C, 69.69; H, 4.83; N, 4.49.

reactant | 3-amino-3-phenylpropionic acid methyl ester hydrochloride | 2.3 mmol, 0.50 g | Cl.COC(CC(C1=CC=CC=C1)N)=O
reactant | sodium carbonate | 2.3 mmol, 0.25 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-carboethoxyphthalimide | 2.3 mmol, 0.51 g | C(=O)(OCC)N1C(C=2C(C1=O)=CC=CC2)=O | C11H9NO4
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | water | 10 mL | O | H2O
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | methyl 3-phthalimido-3-phenylpropionate | 280 mg, 39.4% | C1(C=2C(C(N1C(CC(=O)OC)C1=CC=CC=C1)=O)=CC=CC2)=O | C18H15NO4
